US06506758B2
4-(5,6-Dichloro-1H-indol-2-yl)-N-(1,2,2,6,6-pentamethypiperidin-4-yl)benzamide
A mixture of) of 4-(5,6-dichloro-1H-indol-2-yl) benzoic acid (0.25 g, 0.82 mmol), WSC (0.156 g, 0.82 mmol), HOAT (0.11 g, 0.82 mmol), 4-amino-1,2,2,6,6-pentamethylpiperidine (0.209 g, 1.2 mmol), DIEA (0.212 g, 1.2 mmol) in DMF (3 ml) was stirred at room temperature for 16 h. The mixture was then poured on water, made basic by NaOH N and extracted with ethyl acetate. The organic solution was washed with water, dried over MgSO4, concentrated in vacuo, and the residue was purified by column chromatography (SiO2, CH2Cl2/CH3OH/NH4OH; 9/1/0.1), affording 0.35 g (0.76 mmol, yield 93%) of the title compound as white crystals, mp=325° C.

reactant | 4-(5,6-dichloro-1H-indol-2-yl) benzoic acid | 0.82 mmol, 0.25 g | ClC=1C=C2C=C(NC2=CC1Cl)C1=CC=C(C(=O)O)C=C1 | C15H9Cl2NO2
reactant | WSC | 0.82 mmol, 0.156 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.82 mmol, 0.11 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 1.2 mmol, 0.209 g | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | DIEA | 1.2 mmol, 0.212 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | [OH-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(5,6-Dichloro-1H-indol-2-yl)-N-(1,2,2,6,6-pentamethypiperidin-4-yl)benzamide | 0.76 mmol, 0.35 g, yield 93% | ClC=1C=C2C=C(NC2=CC1Cl)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C25H29Cl2N3O
